US07326791B2
N-[(1S)-5-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and N-[(1S)-5-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)pentylamine in tetrahydrofuran. Yield: 71%; Rf value: 0.53 (silica gel; dichloromethane/methanol=9:1); C33H36ClN5O4 (602.13); mass spectrum: (M+H)+=602/604 (chlorine isotope) and (M−H)−=600/602 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-5-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)pentylamine | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)N | C20H23ClN4O2
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
product | N-[(1S)-5-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 71% | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C33H36ClN5O4
